### PR TITLE
[Merged by Bors] - feat(Order/Directed): DirectedOn and products

### PR DESCRIPTION
**Pull request by mans0954**
A couple of results about `DirectedOn` and Pi products:

- When a set of cross sections is `DirectedOn`, then the projection onto a fibre is  `DirectedOn`
- For each element `i` in the base space, let `d i` be a subset of the fibre at `i`. Then the product of the `d i` is `DirectedOn`.

We also give pairwise product versions of these results.

Inspired by #15412

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Directed.lean [hunk 1]
```diff
@@ -321,3 +321,65 @@ instance (priority := 100) OrderTop.to_isDirected_le [LE α] [OrderTop α] : IsD
...
+namespace Pi
+
+variable {ι : Type*} {α : ι → Type*} [∀ i, LE (α i)]
+
+lemma proj {d : Set (Π i, α i)} (hd : DirectedOn (· ≤ ·) d) (i : ι) :
+    DirectedOn (· ≤ ·) ((fun a => a i) '' d) := by
+  intro p ⟨a, ha⟩ q ⟨b, hb⟩
+  obtain ⟨z,hz⟩ := hd a ha.1 b hb.1
+  use z i
+  aesop
```
Comment (ADedecker) [inline Mathlib/Order/Directed.lean:338]: Could you instead add the following right after [Directed.mono_comp](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Directed.html#Directed.mono_comp) and use it here?
```lean
theorem DirectedOn.mono_comp {r : α → α → Prop} {rb : β → β → Prop} {g : α → β} {s : Set α}
    (hg : ∀ ⦃x y⦄, r x y → rb (g x) (g y)) (hf : DirectedOn r s) : DirectedOn rb (g '' s) :=
  directedOn_image.mpr (hf.mono hg)
```

Comment (ADedecker) [reply Mathlib/Order/Directed.lean:338]: Also, I think this should simply be called `DirectedOn.proj` or `DirectedOn.eval`, double namespaces tend to be unusable.

File: Mathlib/Order/Directed.lean [hunk 2]
```diff
@@ -321,3 +321,65 @@ instance (priority := 100) OrderTop.to_isDirected_le [LE α] [OrderTop α] : IsD
...
+
+lemma prodMk {d : (i : ι) → Set (α i)} (hd : ∀ (i : ι), DirectedOn (· ≤ ·) (d i)) :
+    DirectedOn (· ≤ ·) (Set.pi  Set.univ d) := by
```
Comment (ADedecker) [inline Mathlib/Order/Directed.lean:341]: Could you allow for any `s : Set ι` instead of `univ`? 

Also, I would call this `DirectedOn.set_pi`, or even `DirectedOn.pi`

File: Mathlib/Order/Directed.lean [hunk 3]
```diff
@@ -321,3 +321,65 @@ instance (priority := 100) OrderTop.to_isDirected_le [LE α] [OrderTop α] : IsD
...
+end Pi
+
+section Prod
+
+variable {r₂ : β → β → Prop}
+
+/-- Local notation for a relation -/
+local infixl:50 " ≼₁ " => r
+/-- Local notation for a relation -/
+local infixl:50 " ≼₂ " => r₂
```
Comment (ADedecker) [inline Mathlib/Order/Directed.lean:358]: Could you add docstrings to the lemmas below saying explicitly that they are applicable to product orders thanks to definitional equality (if that is indeed the case)?

Also, is there a reason to allow for non-le relations in this case but not for indexed products? My guess is it work as well.

File: Mathlib/Order/Directed.lean [hunk 4]
```diff
@@ -321,3 +321,65 @@ instance (priority := 100) OrderTop.to_isDirected_le [LE α] [OrderTop α] : IsD
...
+
+namespace Prod
```
Comment (ADedecker) [inline Mathlib/Order/Directed.lean:360]: Likewise, I think this shouldn't be namespaced.

File: Mathlib/Order/Directed.lean [hunk 5]
```diff
@@ -321,3 +321,65 @@ instance (priority := 100) OrderTop.to_isDirected_le [LE α] [OrderTop α] : IsD
...
+  obtain ⟨r,hr⟩ := hd p hp.1 q hq.1
+  aesop
+
+lemma snd {d : Set (α × β)} (hd : DirectedOn (fun p q ↦ p.1 ≼₁ q.1 ∧ p.2 ≼₂ q.2) d) :
+    DirectedOn (· ≼₂ ·) (Prod.snd '' d) := by
+  intro a ⟨p,hp⟩ b ⟨q,hq⟩
+  obtain ⟨r,hr⟩ := hd p hp.1 q hq.1
+  aesop
+
+lemma prodMk {d₁ : Set α} {d₂ : Set β} (h₁ : DirectedOn (· ≼₁ ·) d₁) (h₂ : DirectedOn (· ≼₂ ·) d₂) :
```
Comment (ADedecker) [inline Mathlib/Order/Directed.lean:374]: I think this should be named `DirectedOn.set_prod` or even `DirectedOn.prod`.

File: Mathlib/Order/Directed.lean (hunk 2 above)
Comment (mans0954) [reply Mathlib/Order/Directed.lean:342]: @ADedecker I'm failing to imagine the statement you want proved here? I assume you mean something like `DirectedOn (· ≤ ·) (Set.pi  s d)` - but given x and y in `Set.pi  s d` I think one still needs to find `z`  in `Set.pi  s d` such that `x i ≤ z i` and `y i ≤ z i` for all `i` in `ι`, not just in `s`?

Comment (ADedecker) [reply Mathlib/Order/Directed.lean:342]: You're right, this was a dumb suggestion. The worst part is I remember "thinking" about it, but clearly I just made something up. Sorry for that.

Comment (mans0954) [reply Mathlib/Order/Directed.lean]: Easily done! Particularly when switching between lean programming and mathematical thinking.

File: Mathlib/Order/Directed.lean (hunk 3 above)
Comment (mans0954) [reply Mathlib/Order/Directed.lean:358]: The `LE` results can be recovered from the new results as:
```
variable {ι : Type*} {α : ι → Type*} [∀ i, LE (α i)]

example {d : Set (Π i, α i)} (hd : DirectedOn (· ≤ ·) d) (i : ι) :
    DirectedOn (· ≤ ·) ((fun a => a i) '' d) := proj _ hd _

example {d : (i : ι) → Set (α i)} (hd : ∀ (i : ι), DirectedOn (· ≤ ·) (d i)) :
    DirectedOn (· ≤ ·) (Set.pi  Set.univ d) := pi _ (fun i => hd i)
```

File: Mathlib/Order/Directed.lean [hunk 6]
```diff
@@ -321,3 +325,57 @@ instance (priority := 100) OrderTop.to_isDirected_le [LE α] [OrderTop α] : IsD
...
+    DirectedOn (r i) ((fun a => a i) '' d) :=
+  DirectedOn.mono_comp (fun _ _ h => h) (mono hd fun ⦃_ _⦄ h ↦ h i)
+
+lemma pi {d : (i : ι) → Set (α i)} (hd : ∀ (i : ι), DirectedOn (r i) (d i)) :
+    DirectedOn (fun x y => ∀ i, r i (x i) (y i)) (Set.pi  Set.univ d) := by
+  intro a ha b hb
+  choose f hf using fun i => hd i (a i) (ha i trivial) (b i) (hb i trivial)
+  simpa [Pi.le_def, ← forall_and] using ⟨f, fun i =>
+    ⟨by simp_all only [Set.mem_pi, Set.mem_univ, forall_const],
+       by constructor <;> (simp_all only [Set.mem_pi, Set.mem_univ, forall_const])⟩⟩
```
Comment (ADedecker) [inline Mathlib/Order/Directed.lean:347]: Here's a nice trick: the choose tactic allows you to break out `hf` into different sub-hypotheses (well actually it doesn't distinguish between `f` and `hf` either, it justs splits as long as you ask for), so you can avoid having a bunch of "and"s under a forall. That makes the rest of the proof look much cleaner:
```suggestion
  choose f hfd haf hbf using fun i => hd i (a i) (ha i trivial) (b i) (hb i trivial)
  exact ⟨f, fun i _ => hfd i, haf, hbf⟩
```

File: Mathlib/Order/Directed.lean [hunk 7]
```diff
@@ -321,3 +325,57 @@ instance (priority := 100) OrderTop.to_isDirected_le [LE α] [OrderTop α] : IsD
...
 instance (priority := 100) OrderBot.to_isDirected_ge [LE α] [OrderBot α] : IsDirected α (· ≥ ·) :=
   ⟨fun _ _ => ⟨⊥, bot_le _, bot_le _⟩⟩
+
+namespace DirectedOn
+
+section Pi
+
+variable {ι : Type*} {α : ι → Type*}
+
+variable (r : (i : ι) →  α i →  α i → Prop)
```
Comment (ADedecker) [inline Mathlib/Order/Directed.lean:335]: I think this should be left implicit: the most common case will be product orders where it will be inferred, and otherwise named arguments should work in our favor.

File: Mathlib/Order/Directed.lean [hunk 8]
```diff
@@ -321,3 +325,57 @@ instance (priority := 100) OrderTop.to_isDirected_le [LE α] [OrderTop α] : IsD
...
+  intro a ⟨p,hp⟩ b ⟨q,hq⟩
+  obtain ⟨r,hr⟩ := hd p hp.1 q hq.1
+  aesop
+
+lemma prod {d₁ : Set α} {d₂ : Set β} (h₁ : DirectedOn (· ≼₁ ·) d₁) (h₂ : DirectedOn (· ≼₂ ·) d₂) :
+    DirectedOn (fun p q ↦ p.1 ≼₁ q.1 ∧ p.2 ≼₂ q.2) (d₁ ×ˢ d₂) := fun _ hpd _ hqd => by
+  obtain ⟨r₁,hr₁⟩ := h₁ _ hpd.1 _ hqd.1
+  obtain ⟨r₂,hr₂⟩ := h₂ _ hpd.2 _ hqd.2
+  use (r₁, r₂)
+  aesop
```
Comment (ADedecker) [inline Mathlib/Order/Directed.lean:377]: As much as I like `aesop`, I think using it here is a bit overkill.
```suggestion
  obtain ⟨r₁, hdr₁, hpr₁, hqr₁⟩ := h₁ _ hpd.1 _ hqd.1
  obtain ⟨r₂, hdr₂, hpr₂, hqr₂⟩ := h₂ _ hpd.2 _ hqd.2
  exact ⟨⟨r₁, r₂⟩, ⟨hdr₁, hdr₂⟩, ⟨hpr₁, hpr₂⟩, ⟨hqr₁, hqr₂⟩⟩
```

But maybe I'm too infected by angle-brackets, so feel free to ignore if you disagree.

**Comment by ADedecker** [comment]
Also, could you do a check for double spaces and remove them ? I've seen a few, but it's probably easier for you to check rather than me opening comments from each of them.

Thanks!
bors d+
